US07435751B2
Step 1a: Preparation of 7-fluoro-1-methyl-1H-indole-2,3-dione (6)
7-Fluoro-1H-indole-2,3-dione (5, prepared according to the method of Gassman as described in U.S. Pat. No. 4,188,325, 3.00 g, 0.182 mol), iodomethane (3.40 ml, 0.545 mol) and potassium carbonate (4.92 g, 0.0363 mol) in DMF (15 ml) are stirred at room temperature for 1 hour. The reaction mixture is diluted with cold water and the resulting precipitate filtered and dried to give the title compound as a solid. HPLC r.t. 4.01 min; MS for C9H6FNO2 m/z 180.0 (M+H)+.

reactant | 7-Fluoro-1H-indole-2,3-dione | FC=1C=CC=C2C(C(NC12)=O)=O | C8H4FNO2
reactant | iodomethane | 0.545 mol, 3.40 ml | IC | CH3I
reactant | potassium carbonate | 0.0363 mol, 4.92 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-fluoro-1-methyl-1H-indole-2,3-dione | FC=1C=CC=C2C(C(N(C12)C)=O)=O | C9H6FNO2
